Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / amoxicillin / Sulfa (Sulfonamide Antibiotics) / 
Cephalosporins
 
Attending: ___.
 
Chief Complaint:
ab pain, diarrhea
 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy - ___

 
History of Present Illness:
Ms. ___ is a ___ woman with PHX eczema, hyperthyroidism 
(TSH normal recently, likely thyroiditis years ago, see ___) 
who presented with 3 months of changing bowel movements with 
progressively worsening abdominal pain, bloating, nausea without 
emesis,  and frequent watery BMs with BRBPR/mucous, now up to 
___ times per day. Symptoms have increased over the last week 
and now with decreased ability to tolerate food; admitted for 
expedited workup. 

Patient denied oral ulcers, dysphagia, sore throat, hemoptysis 
or bloody emesis. Endorses night sweats for months without cough 
or weight change. She is from ___ and lives in ___ 
where she works. No recent travel outside of the ___, only 
to ___ an ___ within the past year. no sick contacts. 

No recent abx but was on doxy for a month in ___ for acne. 
these GI symptoms have never happened before. She has had an 
___ done ___ ago for weight loss (later identified due to 
hyperthyroidism, see ___) which reportedly only showed 
gastritis, bile reflux. 

She notes chronic mild background GI symptoms for as long as she 
can remember which she take a probiotic and has tried a gluten 
free diet but with no improvement in the past. 

She had an appointment with GI: Dr. ___ on ___ but 
presented to ED because she felt her symptoms were increased to 
the point that she could not wait until ___.

Initial vitals in the ED were: 98.2 70 125/76 16 100%RA. She was 
guaiac positive in the ED was watery stool noted. Labs were 
initially notable for 11 percent bands and elevated inflammatory 
markers including CRP 44 which invoked possible IBD. Stool 
studies are pending. 

 
Past Medical History:
-"hypoglycemia" in ___ she had frequent episodes of low blood 
sugar reportedly, laboratory and imaging workup was reportedly 
negative and she was managed by a ___ and her problem 
has since resolved. 
-glaucoma "suspect" takes lumigan drops
-hyperthyroidism: diagnosed in the context of weight loss for 
several months in ___ for which she had an EGD and colonoscopy 
done (in ___ which reportedly only showed gastritis, bile 
reflux. She was not treated with medication and her TSH was 
followed on serial labs and most recently checked in ___ 
and was reportedly normal at that time. 

 
Social History:
___
Family History:
-her father was diagnosed with non-celiac gluten sensitivity and 
is on a gluten free diet. 
-no family history of autoimmune disorders
 
 
Physical Exam:
ADMISSION 
VS:  98.2 P70  125/76  R16  100% RA
GEN: Young fare-skinned Caucasian, thin woman who is alert, 
lying in bed, no acute distress 
HEENT: MMM, anicteric sclera, no conjunctival pallor, OP clear  
NECK: Supple without LAD  
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, NT ND, normal BS  
EXTREM: Warm, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE
VS - 98.0 104/61 51 16 99%RA
Gen - supine in bed, thin, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds, no CVA 
tenderness
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - moving all extremities
Psych - appropriate, pleasant 
 
Pertinent Results:
ADMISSION
___ 12:42PM BLOOD WBC-7.1 RBC-4.64 Hgb-13.6 Hct-43.0 MCV-93 
MCH-29.3 MCHC-31.6* RDW-13.5 RDWSD-45.5 Plt ___
___ 12:42PM BLOOD Glucose-84 UreaN-8 Creat-0.9 Na-136 K-3.9 
Cl-101 HCO3-22 AnGap-17

DISCHARGE
___ 06:45AM BLOOD WBC-10.4* RBC-4.35 Hgb-13.0 Hct-39.8 
MCV-92 MCH-29.9 MCHC-32.7 RDW-13.4 RDWSD-45.1 Plt ___
___ 07:30AM BLOOD Glucose-88 UreaN-14 Creat-0.6 Na-139 
K-4.5 Cl-103 HCO3-25 AnGap-16

NOTABLE
___ 12:42PM BLOOD CRP-43.7*
___ 07:05AM BLOOD CRP-49.1*
___ 06:45AM BLOOD CRP-6.4*
___ 07:00AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE

___ QUANTIFERON-TB GOLD-Test      
 Test                          Result              Reference 
Range/Units
QUANTIFERON(R)-TB GOLD        NEGATIVE            NEGATIVE
 
Negative test result. M. tuberculosis complex 
infection unlikely.

___ - MRE 
1.   Incomplete, limited examination of the small bowel as the 
patient vomited the oral contrast material. 
2.   Proctocolitis with moderate free pelvic fluid. 

___ - Flexible Sigmoidoscopy
Exudate, granularity, erythema, erosions, and friability in the 
rectum, sigmoid colon and distal descending colon compatible 
with ___ 2 disease (biopsy) Otherwise normal sigmoidoscopy to 
distal descending colon at 40 cm

___ Biopsy
a. Chronic moderately active colitis.
b. No granulomata or dysplasia identified
 
Brief Hospital Course:
This is a ___ year old female with past medical history of eczema 
admitted with progressive diarrhea, abdominal pain and nausea, 
found to have elevated CRP and a flexible sigmoidoscopy 
concerning for ulcerative colitis, CRP not responding to IV 
steroids, now s/p remicade x 1, ready for discharge home on oral 
prednisone with GI follow-up scheduled

# Ulcerative Colitis, Acute Flare - patient admitted with 
progressive diarrhea, abdominal pain and nausea; diarrhea 
described as intermittently bloody with mucus; had been 
scheduled as outpatient to establish with GI, but given 
worsening symptoms and symptoms of dehydration, patient 
presented for admission.  Patient was seen by GI, was found to 
have elevated CRP to 43, as well as flexible sigmoidoscopy with 
"Exudate, granularity, erythema, erosions, and friability in the 
rectum, sigmoid colon and distal descending colon".  Biopsy 
showed chronic colitis.  Clinical picture was felt to be 
concerning for ulcerative colitis.  Infectious workup including 
cdiff was negative.  Patient started on IV steroids with 
improvement in nausea, but with continued rising CRP to 49; this 
was considered to represent failure of steroid therapy.  She was 
received 1 dose of IV Infliximab 500 mg.  Subsequent CRP was 
decreased to 6.  Patient was discharged on PO prednisone 40mg 
daily, with scheduled GI follow-up, and appointment to establish 
at ___.  Of note, quant-gold negative, HBsAg negative, HBsAb 
positive, HBcAb negative. TPMT pending at discharge

Transitional Issues
- Patient discharged home on PO prednisone, plan for close GI 
follow-up in < 1 week
- Scheduled to establish at ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loestrin ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral Q24H 
2. Omeprazole 20 mg PO QAM:PRN heart burn 
3. Lumigan (bimatoprost) 0.01 % ophthalmic QAM 
4. tazarotene 0.1 % topical QAM acne 

 
Discharge Medications:
1. Loestrin ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral Q24H 
2. Lumigan (bimatoprost) 0.01 % ophthalmic QAM 
3. Omeprazole 20 mg PO QAM:PRN heart burn 
4. tazarotene 0.1 % topical QAM acne 
5. PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Ulcerative Colitis, Acute Flare 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with diarrhea and abdominal pain.  You were seen by GI 
specialists and underwent testing including a "flexible 
sigmoidoscopy".  A biopsy showed evidence of colitis 
(inflammation of the colon).  You were treated with steroids, 
and then with a medication called "remicade".  Your symptoms 
improved and your CRP (a marker of inflammation) decreased.  

You are now ready for discharge home.  Your GI doctors 
recommended that ___ continue on steroids (prednisone 40mg once 
a day every day) until you follow-up with Dr. ___ in his 
office on ___.

You asked about medications that might be appropriate for 
constipation and cramping in the future: Colace or miralax; 
simethicone (all over the counter).
 
Followup Instructions:
___